US07576218B2
Step 1: [4-(4-chloro-phenyl)-piperidin-4-yl]-methanol:
Took 3.0 g of 4-(4-chloro-phenyl)-piperidine-4-carboxylic acid hydrochloride (10.9 mmol, 1.00 equiv.) and 20 mL dry THF in a 250 mL round bottom flask fitted with a stir bar, reflux condenser, and N2 inlet. The resulting slurry was cooled in an ice water bath, followed by the addition of 825 mg LiAlH4 in several small portions. The ice bath was removed and the mixture allowed to stir overnight at room temperature under N2. The reaction was carefully quenched with a small amount of aqueous NaOH and allowed to stir for several hours. The solids were removed by vacuum filtration and discarded; the mother liquor was concentrated under vacuum and purified by normal phase HPLC (MeOH-DCM as the eluent). MS (ES) M+H expected=226.7, found=226.1

reactant | 4-(4-chloro-phenyl)-piperidine-4-carboxylic acid hydrochloride | 10.9 mmol, 3.0 g, 1.00 equiv. | Cl.ClC1=CC=C(C=C1)C1(CCNCC1)C(=O)O
reactant | LiAlH4 | 825 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | [4-(4-chloro-phenyl)-piperidin-4-yl]-methanol | ClC1=CC=C(C=C1)C1(CCNCC1)CO | C12H16ClNO
